US04143055
2,3-dihydro-6-hydroxy-N,2-dimethyl-4-benzofuranamine
5 cc of 48% HBr are added to a solution of 5 grams of 2,3-dihydro-6-methoxy-N,2-dimethyl-4-benzofuranamine hydrochloride in 20 cc of acetic acid and the resulting mixture is refluxed for 16 hours. At the end of this time the solvent is evaporated off and the residue, taken up with sodium bicarbonate, is thoroughly extracted with ether. Evaporation of this organic phase, previously dried over Na2SO4, gives a crude residue which crystallized from ethyl ether-petroleum ether yields 3 grams of the desired end product. Yield 77 percent of theoretical. M.p. 126°-128° C.

reactant | HBr | 5 cc | Br | BrH
reactant | 2,3-dihydro-6-methoxy-N,2-dimethyl-4-benzofuranamine hydrochloride | 5 grams | Cl.COC=1C=C2C(CC(O2)C)=C(C1)NC
solvent | acetic acid | 20 cc | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-6-hydroxy-N,2-dimethyl-4-benzofuranamine | Yield 77 percent | OC=1C=C2C(CC(O2)C)=C(C1)NC | C10H13NO2
